US05344843
A mixture of 4-[[2-(4-chlorophenoxy)ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester (0.72 g) in methanol and 0.5N sodium hydroxide (8 mL) was treated as in Example 19. Extraction provided solids which were crystallized from diethyl ether-hexane to give 0.63 g of colorless 4-[[2-(4-chlorophenoxy)ethyl]oxy]-alpha-oxobenzeneacetic acid, mp 121°-122° C.

reactant | 4-[[2-(4-chlorophenoxy)ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester | 0.72 g | COC(C(C1=CC=C(C=C1)OCCOC1=CC=C(C=C1)Cl)=O)=O | C17H15ClO5
solvent | methanol | CO | CH4O
solvent | sodium hydroxide | 0.5N, 8 mL | [OH-].[Na+]
product | 4-[[2-(4-chlorophenoxy)ethyl]oxy]-alpha-oxobenzeneacetic acid | 0.63 g | ClC1=CC=C(OCCOC2=CC=C(C=C2)C(C(=O)O)=O)C=C1 | C16H13ClO5
